US05455258
To a suspension of sodium hydride (0.68 g, 14.1 mmol) in dimethylformamide (60.0 mL), is added N-[4-methoxybenzenesulfonyl]-(D)-leucine t-butyl ester (5.02 g, 14.06 mmol) in dimethylformamide (10.0 mL). After stirring at room temperature for 20 minutes, benzyl bromide (1.67 mL, 14.06 mmol) is added, and the reaction is stirred overnight at room temperature. The reaction is then partitioned between ethyl acetate and acidic water (pH=5), the organic layer is dried (Na2SO4), and the solvent is evaporated. The product is purified by silica gel chromatography (10% ethyl acetate/hexane) to give t-butyl 2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-4-methylpentanoate.

reactant | sodium hydride | 14.1 mmol, 0.68 g | [H-].[Na+]
reactant | N-[4-methoxybenzenesulfonyl]-(D)-leucine t-butyl ester | 14.06 mmol, 5.02 g | C(C)(C)(C)OC([C@H](NS(=O)(=O)C1=CC=C(C=C1)OC)CC(C)C)=O | C17H27NO5S
reactant | benzyl bromide | 14.06 mmol, 1.67 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 60.0 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10.0 mL | CN(C=O)C | C3H7NO
product | t-butyl 2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-4-methylpentanoate | COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)OC(C)(C)C)CC(C)C)CC1=CC=CC=C1 | C24H33NO5S
